US08008298B2
A solution of (1-methyl-cyclohexyl)-[2-(3-piperazin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone (130 mg, 0.32 mmol), benzotriazol-1-ol (52 mg, 0.38 mmol), cyano-acetic acid (74 mg, 0.39 mmol), and 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride (74 mg, 0.39 mmol), in DCM (35 ml), was treated with TEA (0.13 ml, 0.97 mmol). After stirring at room temperature for 16 hours, the reaction mixture was partitioned between DCM and water. The organic layers were collected, dried over MgSO4, filtered, and concentrated. Trituration of the resulting solid with 1:1 Et2O/Hex provided 85 mg (56%) of 3-(4-{3-[7-(1-methyl-cyclohexanecarbonyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-piperazin-1-yl)-3-oxo-propionitrile as an off white solid. MP 214-216° C., M+H=471.

reactant | (1-methyl-cyclohexyl)-[2-(3-piperazin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | 0.32 mmol, 130 mg | CC1(CCCCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=CC=C2)N2CCNCC2 | C24H29N5O
reactant | benzotriazol-1-ol | 0.38 mmol, 52 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | cyano-acetic acid | 0.39 mmol, 74 mg | C(#N)CC(=O)O | C3H3NO2
reactant | 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride | 0.39 mmol, 74 mg | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 35 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-{3-[7-(1-methyl-cyclohexanecarbonyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-piperazin-1-yl)-3-oxo-propionitrile | 85 mg, 56% | CC1(CCCCC1)C(=O)C1=CNC2=NC=C(N=C21)C=2C=C(C=CC2)N2CCN(CC2)C(CC#N)=O | C27H30N6O2
